US08563541B2
Intermediate E-1: 6-[(Dimethylamino)methylene]-6,11-dihydro-5H-dipyrido[2,3-b: 3′,4′-f]azepin-5-one
A solution of 6,11-dihydro-5H-dipyrido[2,3-b:3′,4′-f]azepin-5-one (0.440 g, 2.08 mmol, Intermediate D-6) and 1,1-dimethoxy-N,N-dimethylmethanamine (2.49 mL, 18.7 mmol) in THF (30 mL) was stirred for three days under an atmosphere of nitrogen. The mixture was concentrated in vacuo to give the desired product as an orange solid which was used directly for the next step. LC/MS: 267 (M+H)+.

reactant | 6,11-dihydro-5H-dipyrido[2,3-b:3′,4′-f]azepin-5-one | 2.08 mmol, 0.440 g | N1=CC=CC2=C1NC1=C(CC2=O)C=NC=C1 | C12H9N3O
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 18.7 mmol, 2.49 mL | COC(N(C)C)OC | C5H13NO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 6-[(Dimethylamino)methylene]-6,11-dihydro-5H-dipyrido[2,3-b: 3′,4′-f]azepin-5-one | CN(C)C=C1C(C2=C(NC3=C1C=NC=C3)N=CC=C2)=O | C15H14N4O
